US09260422B2
Methyl 5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylate
Silver triflate (0.17 g, 0.67 mmol) was added portion wise to a stirred solution of methyl (2S)-2-amino-5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pent-4-ynoate (0.5 g, 1.3 mmol) in methanol (10 ml) and the mixture was stirred at room temperature overnight. After this time the solid precipitate was removed by filtration and the filtrate concentrated. The resulting residue was dissolved in methanol (5 ml), cooled to 0° C., treated with sodium borohydride (0.2 g, 5.0 mmol) and stirred at 0° C. for 2 hours. After this time the reaction mixture was quenched by the careful addition of saturated sodium bicarbonate (1 ml), the mixture was concentrated and the resulting residue partitioned between ethyl acetate (20 ml) and water (10 ml). The organic layer was removed, dried (MgSO4), filtered and concentrated. The residue was purified by prep HPLC to give the title compound (0.03 g, 5% yield) as a brown oil. Tr=2.22 min m/z (ES+) (M+H+) 373.

reactant | methyl (2S)-2-amino-5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pent-4-ynoate | 1.3 mmol, 0.5 g | N[C@H](C(=O)OC)CC#CC1=NC=NC(=C1)C1=CC(=C(C=C1)OC1CC1)Cl | C19H18ClN3O3
reactant | sodium borohydride | 5.0 mmol, 0.2 g | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | Silver triflate | 0.67 mmol, 0.17 g | [O-]S(=O)(=O)C(F)(F)F.[Ag+]
product | Methyl 5-[6-(3-chloro-4-cyclopropoxyphenyl)pyrimidin-4-yl]pyrrolidine-2-carboxylate | 0.03 g, 5% yield | ClC=1C=C(C=CC1OC1CC1)C1=CC(=NC=N1)C1CCC(N1)C(=O)OC | C19H20ClN3O3
